US09278931B2
B) 2-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)isoindolin-1-one hydrochloride
tert-Butyl(cyclopropylmethyl){trans-2-[4-(1-oxo-1,3-dihydro-2H-isoindol-2-yl)phenyl]cyclopropyl}carbamate (123.7 mg) was dissolved in 4N hydrochloric acid/cyclopentyl methyl ether solution (1.5 mL), and the mixture was stirred at room temperature for 4 hr. The solvent was evaporated under reduced pressure. The residue was recrystallized from methanol/diisopropyl ether to give the title compound (76.4 mg).

reactant | tert-Butyl(cyclopropylmethyl){trans-2-[4-(1-oxo-1,3-dihydro-2H-isoindol-2-yl)phenyl]cyclopropyl}carbamate | 123.7 mg | C(C)(C)(C)OC(N([C@H]1[C@@H](C1)C1=CC=C(C=C1)N1C(C2=CC=CC=C2C1)=O)CC1CC1)=O | C26H30N2O3
reactant | hydrochloric acid cyclopentyl methyl ether | 4N, 1.5 mL | Cl.COC1CCCC1
product | 2-(4-{trans-2-[(cyclopropylmethyl)amino]cyclopropyl}phenyl)isoindolin-1-one hydrochloride | 76.4 mg | Cl.C1(CC1)CN[C@H]1[C@@H](C1)C1=CC=C(C=C1)N1C(C2=CC=CC=C2C1)=O | InChI=1S/C21H22N2O.ClH/c24-21-18-4-2-1-3-16(18)13-23(21)17-9-7-15(8-10-17)19-11-20(19)22-12-14-5-6-14;/h1-4,7-10,14,19-20,22H,5-6,11-13H2;1H/t19-,20+;/m0./s1
